US06127541
2-(4-Hydroxybutylamino)benzonitrile
According to a similar manner to that in Reference Example 12, the title compound was synthesized from 2-fluorobenzonitrile and 4-hydroxybutylamine.

reactant | 2-fluorobenzonitrile | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | 4-hydroxybutylamine | OCCCCN | C4H11NO
product | 2-(4-Hydroxybutylamino)benzonitrile | OCCCCNC1=C(C#N)C=CC=C1 | C11H14N2O
